US04112237
Example 2 -- Preparation of N-methoxycarbonylmethyl-N-(1,1,2,2-tetrachloroethylthio)cyclohexanesulfonamide
A 1.2 g (0.03 mol) sample of sodium hydroxide in 1.2 ml water was added dropwise to a solution of 6.5 g (0.03 mol) N-(methoxycarbonylmethyl)cyclohexanesulfonamide, 7.0 g (0.03 mol) 1,1,2,2-tetrachloroethylsulfenyl chloride, 0.5 g. triethylbenzylammonium chloride in 100 ml dichloromethane. The resulting reaction mixture was stirred at about 25° C. for 3 hours, washed with water, dried over magnesium sulfate and evaporated under reduced pressure to give an oil residue. The residue was chromatographed through silica gel. Elution with 10% ethyl ether/hexane gave 2.5 g of the product as an oil. Elemental analysis for C11H17Cl4NO4S2 showed: %Cl, calc. 32.7, found 32; %S, calc. 14.8, found 15.1. The product is tabulated in Table I as Compound No. 2.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | N-(methoxycarbonylmethyl)cyclohexanesulfonamide | 0.03 mol, 6.5 g | COC(=O)CNS(=O)(=O)C1CCCCC1 | C9H17NO4S
reactant | 1,1,2,2-tetrachloroethylsulfenyl chloride | 0.03 mol, 7.0 g | ClC(C(Cl)Cl)(SCl)Cl | C2HCl5S
solvent | water | 1.2 ml | O | H2O
catalyst | triethylbenzylammonium chloride | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-methoxycarbonylmethyl-N-(1,1,2,2-tetrachloroethylthio)cyclohexanesulfonamide | 2.5 g | COC(=O)CN(S(=O)(=O)C1CCCCC1)SC(C(Cl)Cl)(Cl)Cl | C11H17Cl4NO4S2
